US03944553
The diaminodimethylbiphenyl from which the present synthesis is initiated is not commercially available, however, the compound can be prepared by the method reported by Carlin and FOltz wherein aminonitrotoluene is reacted with potassium iodide in the presence of nitrous acid to give iodonitrotoluene. Two moles of the iodonitrotoluene are reacted then in the presence of copper powder to produce dinitrodimethylbiphenyl. Subsequent reduction with hydrogen in the presence of a catalyst produces the corresponding amino compound.

reactant | diaminodimethylbiphenyl | NC=1C(=C(C=CC1C)C1=CC=C(C=C1)C)N | C14H16N2
reactant | aminonitrotoluene | NC=1C(=C(C=CC1)C)[N+](=O)[O-] | C7H8N2O2
reactant | potassium iodide | [I-].[K+]
reactant | nitrous acid | N(=O)O | HNO2
product | iodonitrotoluene | IC=1C(=C(C=CC1)C)[N+](=O)[O-] | C7H6INO2
